US04098888
To a solution of 2.80 g of α-t-butyloxycarbonylamino-α-[2-(trichloroethoxycarbonylamino)thiazol-4-yl)acetic acid ethyl ester in 60 ml of 90% formic acid is added 2.80 g of zinc dust under cooling and stirring. The mixture is stirred for 1 hour and zinc dust is filtered off. The filtrate is poured into water and the resultant solution is extracted with ethyl acetate. The organic layer is washed with saturated sodium bicarbonate aq. solution and then water, and dried over anhydrous magnesium sulfate. The distillation of the solvent gives 1.26 g (yield, 71.2%) of α-t-butyloxycarbonylamino-α-(2-aminothiazol-4-yl)acetic acid ethyl ester as crystals. Melting point: 143°-144° C.

reactant | α-t-butyloxycarbonylamino-α-[2-(trichloroethoxycarbonylamino)thiazol-4-yl)acetic acid ethyl ester | 2.80 g | C(C)OC(C(C=1N=C(SC1)NC(=O)OCC(Cl)(Cl)Cl)NC(=O)OC(C)(C)C)=O | C15H20Cl3N3O6S
solvent | formic acid | 60 ml | C(=O)O | CH2O2
catalyst | zinc | 2.80 g | [Zn] | Zn
product | α-t-butyloxycarbonylamino-α-(2-aminothiazol-4-yl)acetic acid ethyl ester | 1.26 g, 71.2% | C(C)OC(C(C=1N=C(SC1)N)NC(=O)OC(C)(C)C)=O | C12H19N3O4S
